US05716972
Ethyl phenylglycine, hydrochloride.
To a mixture of phenylglycine (15.00 gram (hereinafter g.), 0.1 mole (hereinafter mol)) in EtOH (100 miliLiters (hereinafter mL)) was added 20% ethanolic HCl (30 mL). The mixture was heated at reflux for about 20 hours (hereinafter h.), then allowed to cool. The solvent was removed in vacuo, and the residue was used without further purification.

reactant | phenylglycine | 0.1 mole, 15.00 gram | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | HCl | 30 mL | Cl | ClH
reactant | EtOH | CCO | C2H6O
product | Ethyl phenylglycine, hydrochloride | Cl.C(C)N(CC(=O)O)C1=CC=CC=C1 | InChI=1S/C10H13NO2.ClH/c1-2-11(8-10(12)13)9-6-4-3-5-7-9;/h3-7H,2,8H2,1H3,(H,12,13);1H
